US04946494
6-(Methylamino)pyridine-2-sulfonamide
To 10 ml of condensed methylamine was added 1.86 g (10 mmol) of 6-fluoropyridine-2-sulfonamide. The mixture was allowed to reflux under a dry-ice condenser for 4 hr, then excess amine was allowed to evaporate overnight. The residue was crystallized with water to yield 1.64 g of tan solid, m.p. 124° C. to 126° C. NMR (CDCl3): δ 2.64 (s, 3H), 6.12 (br s, 2H), 6.30 (d, 1H), 6.86 (d, 1H), 7.23 (dd, 1H).

reactant | methylamine | CN | CH5N
reactant | 6-fluoropyridine-2-sulfonamide | 10 mmol, 1.86 g | FC1=CC=CC(=N1)S(=O)(=O)N | C5H5FN2O2S
product | 6-(Methylamino)pyridine-2-sulfonamide | 1.64 g | CNC1=CC=CC(=N1)S(=O)(=O)N | C6H9N3O2S
